Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Rash
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old gentleman who is presenting from
urgent care with expanding rash.

He was in usual state of health until ___ when he developed
rash on his trunk that subsequently developed into a full body
rash. The following day, he had fevers with Tmax 105, flu like
symptoms, myalgias, and head "fogginess." He reports no dysuria,
hematuria, or chest pain. No neck pain or headache (aside from
head "fogginess"). He reports cough with sputum production that
began since arrival to ED. He has some mild shortness of breath
with this.

He lives with wife wife and 2 children 3 and 1, with no one in
the family having similar symptoms. Children are up to date on
their vaccines. He has been in contact with children's friends
who have had ___ virus. Sexually active with wife, no 
other
partners. He denies any recent travel last traveled to ___ in
___. No known tick bites, no animals at home. No new
medications. He works in a lab as a ___ at ___ working
with mice in a sepsis project, but he is not the one who injects
the mice with bacteria. He is up to date on his vaccines
(received MMR as a child and had titers checked recently, 
measles
elevated and mumps/rubella pending).

He presented to PCP and was referred to dermatology at ___,
where he had punch biopsy. He was then referred to ___ ED.
Subsequent pathology from biopsy revealed erythema mutliforme.

In the ED, he was febrile to max of 102.9, with BP in
___. He had HR up to 120s, satting well on room 
air.
His exam revealed acute generalized exanthematous pustulosis
without any oral mucosal or ocular involvement. He was seen by 
ID
and dermatology. He was given IV fluids, Tylenol, and
ceftriaxone. Labs were notable for normal WBC with 80.7% PMNs,
CRP of 178.0, and Cr at 1.4. CXR with potential consolidation in
RLL. Patient was given acetaminophen, IV fluids, ceftriaxone and
azithromycin. Decision was made to admit to medicine for further
observation and management.

On arrival to the floor, patient reports continued cough. 
Reports
that rash is more pruritic, but overall he feels much better.
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  
 
PAST MEDICAL AND SURGICAL HISTORY: 
Per records; HLD ,rectal bleeding  
EGD in ___ with hyperplastic polyp x 1  
 
MEDICATIONS:  None

ALLERGIES:  No Known Allergies / Adverse Drug Reactions
 
SOCIAL HISTORY: ___
FAMILY HISTORY:  
Family has hx of leukemia in father in ___ and mult solid
malignancy in family "but their generation didn't really talk
about that" 

 
Past Medical History:
Per records; HLD ,rectal bleeding  
EGD in ___ with hyperplastic polyp x 1  
 
Social History:
___
Family History:
Family has hx of leukemia in father in ___ and mult solid
malignancy in family "but their generation didn't really talk
about that"
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  99.3  117 / 63 65 18 97 RA 
GENERAL: No apparent distress
HEENT: Anicteric sclera, pink conjunctiva, mucous membranes 
moist
with no oral lesions. No ocular lesions.
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: no gross motor/coordination abnormalities 
SKIN: warm and well perfused, erythematous rash over entire 
body,
red-violet in appearance, pustular eruptions in chest and upper
back with scaling.

DISCHARGE PHYSICAL EXAM:  
VS: 
24 HR Data (last updated ___ @ 1607)
    Temp: 98.4 (Tm 99.3), BP: 126/77 (112-126/63-77), HR: 66 
(52-69), RR: 18, O2 sat: 97% (97-99), O2 delivery: Ra  
GENERAL: No apparent distress
HEENT: Anicteric sclera, pink conjunctiva, mucous membranes 
moist
with no oral lesions. No ocular lesions.
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding 
EXTREMITIES: no cyanosis, clubbing, or edema  
NEURO: no gross motor/coordination abnormalities 
SKIN: warm and well perfused, erythematous rash over entire 
body,
red-violet in appearance, pustular eruptions in chest and upper
back with scaling.
 
Pertinent Results:
ADMISSION LABS

___ 07:30PM BLOOD WBC-6.3 RBC-4.95 Hgb-14.7 Hct-41.5 MCV-84 
MCH-29.7 MCHC-35.4 RDW-12.8 RDWSD-39.2 Plt ___
___ 07:30PM BLOOD Neuts-80.7* Lymphs-11.5* Monos-6.2 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-5.05 AbsLymp-0.72* 
AbsMono-0.39 AbsEos-0.05 AbsBaso-0.01
___ 07:30PM BLOOD Glucose-118* UreaN-19 Creat-1.4* Na-136 
K-4.0 Cl-95* HCO3-26 AnGap-15
___ 07:30PM BLOOD ALT-25 AST-25 CK(CPK)-92 AlkPhos-54 
TotBili-0.8
___:30PM BLOOD TotProt-6.9 Albumin-4.2 Globuln-2.7 
Calcium-9.1 Phos-3.3 Mg-2.2
___ 04:59AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 07:30PM BLOOD CRP-178.0*
___ 04:59AM BLOOD HIV Ab-NEG
___ 07:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:49PM BLOOD Lactate-1.5

DISCHARGE LABS

___ 03:49PM BLOOD WBC-5.1 RBC-4.29* Hgb-12.7* Hct-36.6* 
MCV-85 MCH-29.6 MCHC-34.7 RDW-13.0 RDWSD-40.4 Plt ___
___ 12:50PM BLOOD Neuts-75.6* Lymphs-13.3* Monos-8.6 
Eos-1.5 Baso-0.2 Im ___ AbsNeut-3.59 AbsLymp-0.63* 
AbsMono-0.41 AbsEos-0.07 AbsBaso-0.01
___ 03:49PM BLOOD Glucose-103* UreaN-16 Creat-0.9 Na-141 
K-4.3 Cl-101 HCO3-26 AnGap-14
___ 03:49PM BLOOD ALT-28 AST-28 AlkPhos-55 TotBili-0.4
___ 03:49PM BLOOD Calcium-8.4 Phos-3.4 Mg-2.0

STUDIES
=======

___ SKIN BIOPSY REPORT

Spec(s)       ___                       Report        
___ 
 Received:                                      ___ Out:   17 

 Alternate 
 MRN: 
                        SURGICAL PATHOLOGY REPORT 
 ___ Status: Revised 
  _ _ 
              PATHOLOGIC DIAGNOSIS (by: ___, M.D.) 
 SKIN, RIGHT CHEST, PUNCH BIOPSY: 
 Mild spongiotic and interface dermatitis with rare dyskeratotic 
cells 
 and a superficial perivascular lymphocytic infiltrate with 
occasional 
 eosinophils, see note. 
 . 
 Note: No pustules are seen. The differential diagnosis includes 
early 
 erythema multiforme or an EM-like drug eruption. 
 ADDENDUM 
 PAS and Gram stains are negative for organisms. 
 . 

___ CXR
Subtle hazy opacity at the right lung base likely represents 
mild atelectasis 
or projection, but it is difficult to exclude early pneumonia. 

 
Brief Hospital Course:
___ male no significant past medical history who 
presented from urgent care with expanding rash, fevers, 
myalgias, and cough concerning for a is is erythema multiforme.

Active issues
=============

#Rash
Biopsy prior to admission consistent with early erythema 
multiforme or an EM-like drug eruption. ID was consulted for 
assistance with management. His rash was thought to be secondary 
to a viral infection given his exposure at kids' school. Rash 
did not appear consistent with measles or varicella (Measles 
titers suggestive of prior vaccination with some response). His 
rash was rapidly improving with a high-potency steroid cream 
after admission and he was able to be discharged in stable 
condition with plan for close dermatology outpatient follow-up.

#Fevers
#Productive cough
Patient's systemic symptoms likely in the setting of acute viral 
infection possibly causing his rash as above. However, given the 
sputum production and possible interstial infiltrate on chest 
x-ray, patient was started empirically on 5 day course of 
azithromycin (day 1 = ___ for a low probability of mycoplasma 
pneumonia. 

#Acute kidney injury
His creatinine improved from 1.4 on admission to 1.1 on 
discharge with supportive treatment. 

Transitional issues
===================
[] rash improving prior to discharge. Viral studies pending on 
discharge. Please make sure he has a follow up appointment with 
dermatology as an outpatient
[] should not take high-potency topical steroids for more than 
14d without instructions by dermatology
[] started on 5-day course of azithromycin for pneumonia (last 
day ___
[] discharge creatinine 1.1, downtrending - please follow up and 
ensure resolution.

#CODE: Full 
#HCP: Wife ___ ___

 
___ on Admission:
None
 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 4 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0 
2.  Betamethasone Dipro 0.05% Cream 1 Appl TP BID trunk and 
extremities 
RX *betamethasone, augmented 0.05 % Appl TP BID trunk and 
extremities twice a day Refills:*3 
3.  Desonide 0.05% Cream 1 Appl TP BID face and scalp 
RX *desonide 0.05 % Appl TP BID face and scalp twice a day 
Refills:*3 
4.  HydrOXYzine 25 mg PO Q6H:PRN itch 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth daily Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses
=================
#Possible erythema multiforme
#Acute kidney injury
#Possible pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear  Mr. ___,

It was a pleasure to take care of you at ___.  

WHY WAS I HERE?  
You were admitted to the hospital because of your fever and 
rash. 

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL  
- While you were in the hospital you were seen by dermatology, 
who recommended lotions to treat your rash
- You had a biopsy before coming in that did not show a 
dangerous case for your rash.
- You had many lab tests, which can be followed up as an 
outpatient. 

 
WHAT SHOULD I DO WHEN I GET HOME?  
1) Please follow up at your outpatient appointments.  
2) Please take your medications as prescribed. 
3) If any of your symptoms worsen, please see an MD or come to 
the emergency department

We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___